US06664247B2
To a solution of 2,4,6-trichloropyrimidine (600 mg, 3.27 mmol) and 3-amino-5-cyclopropylpyrazole (403 mg, 3.27 mmol) in EtOH (10 mL) was added triethylamine (456 μL, 3.27 mmol) and the reaction mixture was stirred for 15 hours at room temperature. The solvent was evaporated and the residue was purified by flash chromatography (SiO2, Hexane/AcOEt gradient) to afford (5-cyclopropyl-2H-pyrazol-3-yl)-(2,6-dichloropyrimidin-4-yl)-amine (705 mg, 80%).

reactant | 2,4,6-trichloropyrimidine | 3.27 mmol, 600 mg | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | 3-amino-5-cyclopropylpyrazole | 3.27 mmol, 403 mg | NC1=NNC(=C1)C1CC1 | C6H9N3
reactant | triethylamine | 3.27 mmol, 456 μL | C(C)N(CC)CC | C6H15N
solvent | EtOH | 10 mL | CCO | C2H6O
product | (5-cyclopropyl-2H-pyrazol-3-yl)-(2,6-dichloropyrimidin-4-yl)-amine | 705 mg, 80% | C1(CC1)C=1C=C(NN1)NC1=NC(=NC(=C1)Cl)Cl | C10H9Cl2N5
